US07300934B2
4-(3-Methyl-3H-imidazol-4-yl)-benzoic acid methyl ester was prepared using the procedure similar to that outlined by Pivsa-Art, S.,; Satoh, T., Kawamura, Y., Miura, M., Nomura, M. Bull. Chem. Soc. Jpn. 71, 1998, 467. In a flask was dried Cs2CO3 (3.29 g, 12 mmol) in vacuo at 150° C. for 1.5 hr. After cooling to ambient temperature, N-methylimidazole (0.5 mL, 6 mmol), methyl-4-iodo-benzoate (3.29 g, 12 mmmol), Pd(OAc)2 (0.14 g, 0.6 mmol), PPh3 (4.09 g, 12 mmol), and 20 mL dimethylformamide. The mixture was stirred under nitrogen at 140° C. for 24 hrs and an additional 16 hrs at ambient temperature. The mixture was poured onto 10% aqueous NaOH and extracted with CH2Cl2, dried over Na2SO4. Purification by chromatography (5% MeOH/CHCl3) gave 0.50 g (37%) of 4-(3-methyl-3H-imidazol-4-yl)-benzoic acid methyl ester. A solution of 4-(3-methyl-3H-imidazol-4-yl)-benzoic acid methyl ester (216 mg, 1 mmol), lithium hydroxide (44.0 mg, 1 mmol), tetrahydrofuran (0.6 mL), water (0.6 mL), and methanol (0.6 mL) was stirred at ambient temperature under nitrogen for 24 hrs. The mixture was concentrated in vacuo and then lyophilized to give 242 g of crude material which was taken on without further purification for preparation of compound 42 of Table 1.

reactant | Cs2CO3 | 12 mmol, 3.29 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N-methylimidazole | 6 mmol, 0.5 mL | CN1C=NC=C1 | C4H6N2
reactant | methyl-4-iodo-benzoate | 3.29 g | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | PPh3 | 12 mmol, 4.09 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NaOH | [OH-].[Na+]
catalyst | Pd(OAc)2 | 0.6 mmol, 0.14 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(3-methyl-3H-imidazol-4-yl)-benzoic acid methyl ester | 0.50 g, 37% | COC(C1=CC=C(C=C1)C=1N(C=NC1)C)=O | C12H12N2O2
